US04957928
A solution of 1.62 g (24.9 mmol) of sodium azide in 10 ml of water is added to a solution of 6.3 g (16.6 mmol) of 2,2-dimethyl-6-fluoro-3-[2-(4-toluenesulfonyloxy)-ethyl]-chroman in 100 ml of ethanol. The mixture is boiled under reflux for 18 hours. After cooling, the ethanol is evaporated off in vacuo and water is added to the residue. The aqueous mixture is extracted with diethyl ether. The combined organic phases are washed with water, dried over sodium sulfate and concentrated by evaporation in vacuo, yielding 4.13 g (100% of the theoretical yield) of 3-(2-azidoethyl)-2,2-dimethyl-6-fluoro-chroman in the form of a light-yellow oil.

reactant | sodium azide | 24.9 mmol, 1.62 g | [N-]=[N+]=[N-].[Na+]
reactant | 2,2-dimethyl-6-fluoro-3-[2-(4-toluenesulfonyloxy)-ethyl]-chroman | 16.6 mmol, 6.3 g | CC1(OC2=CC=C(C=C2CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)F)C | C20H23FO4S
solvent | water | 10 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(2-azidoethyl)-2,2-dimethyl-6-fluoro-chroman | N(=[N+]=[N-])CCC1C(OC2=CC=C(C=C2C1)F)(C)C | C13H16FN3O
